US07259183B2
Preparation of 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-(3-phenyl-propyl)-amide
To a solution of 120 mg (0.74 mmol) of 1H-indole-7-carboxylic acid and 240 mg of TBTU (0.74 mmol) in 8 ml DMF, were added 0.64 ml (3.72 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 280 mg (0.74 mmol) of (4-tert-butyl-benzyl)-(3-phenyl-propyl)-amine were added. After stirring for 4 h at rt, the reaction mixture was diluted with 80 ml water and extracted with EtOAc (2×). The combined organic phases were washed with brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:4) to give 205 mg white solid (63%). MS (ISP) 425.5 (M+H)+.

reactant | 1H-indole-7-carboxylic acid | 0.74 mmol, 120 mg | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | TBTU | 0.74 mmol, 240 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 3.72 mmol, 0.64 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-(3-phenyl-propyl)-amine | 0.74 mmol, 280 mg | C(C)(C)(C)C1=CC=C(CNCCCC2=CC=CC=C2)C=C1 | C20H27N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | 80 ml | O | H2O
product | 1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-(3-phenyl-propyl)-amide | 205 mg, 63% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCCC2=CC=CC=C2)C=C1 | C29H32N2O
